US09102623B2
A8.2) N-Allyl-5-bromo-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide
At room temperature, 250 mg (0.83 mmol) of methyl 5-bromo-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate were stirred in 5 ml of allylamine for 18 h. By addition of 2N hydrochloric acid, the pH was then adjusted to 2, resulting in the precipitation of a colorless solid. Filtration with suction and drying gave 134 mg (50% of theory) of the product.

reactant | methyl 5-bromo-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate | 0.83 mmol, 250 mg | BrC=1C=C(C(NC1C(F)(F)F)=O)C(=O)OC | C8H5BrF3NO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | allylamine | 5 ml | C(C=C)N | C3H7N
product | N-Allyl-5-bromo-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxamide | C(C=C)NC(=O)C=1C(NC(=C(C1)Br)C(F)(F)F)=O | C10H8BrF3N2O2
